US06624158B2
(2R,3R,4S,5S)-4-(Acetyloxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulphonyl)amino]methyl}-9H-purin-9-yl)-5-(3-ethyl-1,2,4-oxadiazol-5-yl)tetrahydro-3-furanyl acetate
Prepared by the same method as Preparation 26 from N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulphonamide hydrochloride (Preparation 8) and a mixture of (2R,3R,4R,5S)-2,4-bis(acetoxy)-5-(3-ethyl-1,2,4-oxadiazol-5-yl)tetrahydro-3-furanyl acetate and (2S,3R,4R,5S)-2,4-bis(acetoxy)-5-(3-ethyl-1,2,4-oxadiazol-5-yl)tetrahydro-3-furanyl acetate (Preparation 14).

reactant | N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulphonamide hydrochloride | Cl.C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNS(=O)(=O)CC(C)C)C1=CC=CC=C1
reactant | (2R,3R,4R,5S)-2,4-bis(acetoxy)-5-(3-ethyl-1,2,4-oxadiazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]1OC(C)=O)C1=NC(=NO1)CC)OC(C)=O | C14H18N2O8
reactant | (2S,3R,4R,5S)-2,4-bis(acetoxy)-5-(3-ethyl-1,2,4-oxadiazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NC(=NO1)CC)OC(C)=O | C14H18N2O8
product | (2R,3R,4S,5S)-4-(Acetyloxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulphonyl)amino]methyl}-9H-purin-9-yl)-5-(3-ethyl-1,2,4-oxadiazol-5-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NC(=NO1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNS(=O)(=O)CC(C)C | C36H42N8O8S
